US06670391B2
In the same manner as in Reference Example 3, except that an equimolar amount of 3-hexyloxy-4,7-dihydroxy-2H-1-benzopyran-2-one was used in place of 3-hexyloxy-4,5-dihydroxy-2H-1-benzopyran-2-one, and ethyl 3-bromopropionate was used in place of ethyl bromoacetate in Reference Example 3, 3-hexyloxy-4-hydroxy-7-(2-ethoxycarbonylethoxy)-2H-1-benzopyran-2-one was obtained.

reactant | 3-hexyloxy-4,7-dihydroxy-2H-1-benzopyran-2-one | C(CCCCC)OC=1C(OC2=C(C1O)C=CC(=C2)O)=O | C15H18O5
reactant | ethyl 3-bromopropionate | BrCCC(=O)OCC | C5H9BrO2
product | 3-hexyloxy-4-hydroxy-7-(2-ethoxycarbonylethoxy)-2H-1-benzopyran-2-one | C(CCCCC)OC=1C(OC2=C(C1O)C=CC(=C2)OCCC(=O)OCC)=O | C20H26O7
